US07851473B2
(1) Imidazo[1,2-b]pyridazine-6-amine
A solution of 6-chloroimidazo[1,2-b]pyridazine (5.00 g, 32.6 mmol) in a 25% aqueous ammonia water (50 ml) was stirred in a sealed tube at 180° C. for 8 hours, and the reaction solution was distilled off under reduced pressure. A form solid was separated by filtration, which was washed with water to give 2.94 g (67.3%) of the desired product as a solid.

reactant | 6-chloroimidazo[1,2-b]pyridazine | 32.6 mmol, 5.00 g | ClC=1C=CC=2N(N1)C=CN2 | C6H4ClN3
reactant | ammonia water | 50 ml | O.N
product | Imidazo[1,2-b]pyridazine-6-amine | 2.94 g, 67.3% | N=1C=CN2N=C(C=CC21)N | C6H6N4
